US05840751
3,4-Dihydro-4'-hydroxy-spiro[naphthalene-1(2H),2'-[2H]pyran]-6'(3'H)-one (±)
The title compound was prepared as described in General Method 1 using 25 mmol of methyl acetoacetate, 27.5 mmol of NaH 60% dispersion in oil, 26.25 mmol of 1.6M n-butyl lithium in hexane, 25 mmol of α-tetralone and 70 mL of tetrahydrofuran. The product was recrystallized from ethyl acetate/diethyl ether (m.p. 117°-119° C.). 1H NMR (CDCl3) δ 1.7-1.9 (m, 1 H), 1.9-2.1 (m, 2 H), 2.1-2.3 (m, 1 H), 2.7-3.0 (m, 2 H), 2.95 (d, 1 H), 3.1 (d, 1 H), 3.5 (s, 2 H), 7.1-7.2 (m, 1 H), 7.2-7.3 (m, 2 H), 7.4-7.5 (m, 1 H).

reactant | methyl acetoacetate | 25 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 27.5 mmol | [H-].[Na+]
reactant | n-butyl lithium | 26.25 mmol, 1.6M | C(CCC)[Li]
reactant | α-tetralone | 25 mmol | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 3,4-Dihydro-4'-hydroxy-spiro[naphthalene-1(2H),2'-[2H]pyran]-6'(3'H)-one | OC=1CC2(OC(C1)=O)CCCC1=CC=CC=C12 | C14H14O3
